US05192766
(E)-3-Phenyl-3-(4-pyridyl)acrylic acid
20 ml of a 10% w/v aqueous solution of sodium hydroxide were added to 35 ml of a methanol solution containing 3.41 g of ethyl (E)-3-phenyl-3-(4-pyridyl)acrylate (prepared as described in Preparation 2), and the mixture was stirred for 1 hour at room temperature. At the end of this time, the reaction solution was poured into 50 ml of water and washed with methylene chloride. Sufficient hydrochloric acid was added to the aqueous phase to adjust the pH to a value of 2.8. The resulting precipitate was collected, giving 2.131 g of the title compound, as a white powder, melting at 239°-241° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 35 ml | CO | CH4O
reactant | ethyl (E)-3-phenyl-3-(4-pyridyl)acrylate | 3.41 g | C1(=CC=CC=C1)\C(=C/C(=O)OCC)\C1=CC=NC=C1 | C16H15NO2
solvent | water | 50 ml | O | H2O
product | (E)-3-Phenyl-3-(4-pyridyl)acrylic acid | 2.131 g | C1(=CC=CC=C1)\C(=C/C(=O)O)\C1=CC=NC=C1 | C14H11NO2
